* PSRR simulation


.lib ac5

VIN     in 0    	dc 0 ac 1
VDD	vdd 0		half
VDD1	vdd vdd1	dc 0 ac 1
VSS	0 vss		half
VSS1	vss2 vss	dc 0 ac 1
 
* For differential gain
X1      s in od vdd vss opamp
R1      od s                    valrf
C1      s 0                     valcf
R2      od 0                    valrl
 
* For VDD
X1a     s1 0 odd vdd1 vss       opamp
R1a     odd s1                  valrf
C1a	s1 0	                valcf
R2a     odd 0                   valrl
 
* For VSS
X1b     s2 0 oss vdd vss2       opamp
R1b     oss s2                  valrf
C1b	s2 0			valcf
R2b     oss 0                   valrl
 
 
.PARAM half='psvoltage/2' valrl=20k valrf=1T valcf=10m
+ valr1=10k valr2=10k
.AC DEC 100 0.1 1
* .MEAS AC pd   FIND VDB(od,odd) AT=0.1
* .MEAS AC ps   FIND VDB(od,oss) AT=0.1
.PROTECT
.MEAS AC pd   FIND par'vm(od)/vm(odd)' AT=0.1
.MEAS AC ps   FIND par'vm(od)/vm(oss)' AT=0.1
.MEAS AC psrr PARAM='min(pd,ps)' AT=0.1

.MEAS AC pd_db   FIND par'vdb(od) - vdb(odd)' AT=0.1
.MEAS AC ps_db   FIND par'vdb(od) - vdb(oss)' AT=0.1
.MEAS AC psrr_db PARAM='min(pd_db,ps_db)' AT=0.1

.PRINT AC 'vdb(od,odd)' 'vdb(od,oss)'

.endl ac5
